* source UCC28881_TRANS
D_D4         0 GND_MOS DIODE 
R_R12         0 N14613364  1G TC=0,0 
C_C6         GND_MOS FB  0.01u  
X_L2         GND_MOS VOUT LDCR PARAMS: L=1m DCR=1.2
D_D3         VOUT N14613750 DIODE 
R_R2         GND_MOS FB  10k  
C_C3         GND_MOS VDD  0.1u  
V_VIN         N14613732 0  
+PWL 0 0 10u 0 20u 350 
X_C4         GND_MOS N14613750 CESR PARAMS: C=15n ESR=3m
R_R13         N14613732 HVIN  10  
R_R3         N14613750 FB  87.7k  
R_Rload         0 VOUT  {10/0.05}  
X_C5         0 VOUT CESR PARAMS: C=330u ESR=0.03
D_D5         0 VOUT ZENER_16V 
X_U1         HVIN FB GND_MOS GND_MOS HVIN N14613364 VDD UCC28881_TRANS
.IC         V(VOUT )=10
